US09388176B2
5,6,7,8-tetrahydro-[2,7]naphthyridine-4-carboxylic acid methyl ester
In a 2 L 3-necked flask equipped with a mechanical stirrer and condenser was placed 7-benzyl-5,6,7,8-tetrahydro-[2,7]naphthyridine-4-carboxylic acid methyl ester (11.28 g, 0.04) in methanol (500 mL). To this solution was added ammonium formate (37.8 g, 0.6 mol) and 10% Pd/C (11 g, 50% water wet). The resulting mixture was stirred and heated to reflux for 15 min. The reaction mixture was filtered through glass microfiber filter paper. The catalyst on filter paper was washed with hot methanol (200 mL). The filtrate was concentrated under reduced pressure to give a solid residue. The residue was purified by flash chromatography over silica gel (120 g) with anhydrous sodium sulfate (15 g) on top packed with hexane. The column was eluted with 100 mL portions of dichloromethane for fractions 1-4, 5% of (10% ammonia in methanol) in dichloromethane for fractions 6-9, and 10% of (10% ammonia in methanol) in dichloromethane for fractions 10-18. All fractions checked by TLC [10% of (10% ammonia in methanol) in dichloromethane]. The product was eluted in fractions 11-16 to give the title compound (6.1 g, 79%) as a light yellow solid. 1H NMR 60 MHz, (CDCl3), δ 8.8 (s, 1H), 8.2 (s, 1H), 4.0 (s, 2H), 3.8 (s, 3H), 3.0 (s, 4H), 1.7 (s, 1H).

reactant | 7-benzyl-5,6,7,8-tetrahydro-[2,7]naphthyridine-4-carboxylic acid methyl ester | 11.28 g | COC(=O)C1=CN=CC=2CN(CCC12)CC1=CC=CC=C1 | C17H18N2O2
reactant | ammonium formate | 0.6 mol, 37.8 g | C(=O)[O-].[NH4+]
solvent | methanol | 500 mL | CO | CH4O
catalyst | Pd/C | 11 g | [Pd] | Pd
product | 5,6,7,8-tetrahydro-[2,7]naphthyridine-4-carboxylic acid methyl ester | 6.1 g, 79% | COC(=O)C1=CN=CC=2CNCCC12 | C10H12N2O2
